US05728829
3-(tert-Butyloxycarbonylamino)benzoic acid
3-Aminobenzoic acid (4.11 g, 30 mmol) was taken up in 2M KOH (30 ml) and dioxan (30 ml). The solution was cooled to 0° C. and di-tert-butyldicarbonate (6.98 g, 32 mmol) added. The mixture was allowed to warm to r.t. and stirred overnight. Dioxan was removed by evaporation and the solution diluted with 1H KOH (50 ml). The mixture was washed with ether (×2) and acidified with conc. HCl. The resultant white precipitate was collected by filtration and dried over P2O5 (5.35 g, 75%).

reactant | 3-Aminobenzoic acid | 30 mmol, 4.11 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | di-tert-butyldicarbonate | 32 mmol, 6.98 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | KOH | 2M, 30 ml | [OH-].[K+]
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | 3-(tert-Butyloxycarbonylamino)benzoic acid | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)O)C=CC1 | C12H15NO4
